US04081477
The procedure of Example 7 is followed, using methylamine instead of ammonia. The (+)-3-methylaminomethylpinane boils at from 118° to 120° C/18 mm Hg. (+)-3-Methylaminomethylpinane hydrochloride of optical rotation [α]D23 = + 30.8° is prepared by treatment with hydrogen chloride, analogously to Example 7. The (+)-3-methylaminomethylpinane hydrochloride obtained after two recrystallizations from a mixture of ethyl acetate and methanol has an optical rotation of [α]D23 = + 44.0° and melts at 240° C.

reactant | methylamine | CN | CH5N
reactant | (+)-3-methylaminomethylpinane | CNCC1C(C2C(C(C1)C2)(C)C)C | C12H23N
reactant | hydrogen chloride | Cl | ClH
product | (+)-3-methylaminomethylpinane hydrochloride | Cl.CNCC1C(C2C(C(C1)C2)(C)C)C | InChI=1S/C12H23N.ClH/c1-8-9(7-13-4)5-10-6-11(8)12(10,2)3;/h8-11,13H,5-7H2,1-4H3;1H
